US08426604B2
A. 4-(2,2,2-Trifluoro-acetylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a solution of 4-Amino-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (2.45 g, 10 mmol) in ethyl acetate (20 mL) and methanol (5 mL) was added DIPEA (0.15 g, 1.14 mmol) followed by ethyl trifluoroacetate (1.54 g, 11 mmol). The reaction mixture was stirred at room temperature overnight and partitioned between water and ethyl acetate. The ethyl acetate layer was washed with water, brine, dried over Na2SO4, filtered, and the solvent evaporated in vacuo to yield a crude solid which was used directly to the next step without further purification.

reactant | 4-Amino-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 10 mmol, 2.45 g | COC(=O)C1N(CC(C1)N)C(=O)OC(C)(C)C | C11H20N2O4
reactant | DIPEA | 1.14 mmol, 0.15 g | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl trifluoroacetate | 11 mmol, 1.54 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
product | 4-(2,2,2-Trifluoro-acetylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(CC(C1)NC(C(F)(F)F)=O)C(=O)OC(C)(C)C | C13H19F3N2O5
